US05356926
Following a procedure analogous to Example 28, Preparation B, 200 mg (0.71 mmol) of 5-methoxy-3-(1-methylethoxy)benzo[b]thiophene-2-carboxylic acid-1-oxide and 388 μL (3.55 mmol) of benzylamine gives 7 mg (52%) of 5-methoxy-3-(1-methylethoxy)-N-(phenylmethyl)benzo[b]thiophene-2-carboxamide-1-oxide as a yellow gum.

reactant | 5-methoxy-3-(1-methylethoxy)benzo[b]thiophene-2-carboxylic acid-1-oxide | 0.71 mmol, 200 mg | COC1=CC2=C(S(C(=C2OC(C)C)C(=O)O)=O)C=C1 | C13H14O5S
reactant | benzylamine | 3.55 mmol, 388 μL | C(C1=CC=CC=C1)N | C7H9N
product | 5-methoxy-3-(1-methylethoxy)-N-(phenylmethyl)benzo[b]thiophene-2-carboxamide-1-oxide | 7 mg, 52% | COC1=CC2=C(S(C(=C2OC(C)C)C(=O)NCC2=CC=CC=C2)=O)C=C1 | C20H21NO4S
